US06861419B2
2-Methoxy-4-methylsulfanyl-benzoic acid (2 g, 10.09 mmol) was dissolved in dry THF (20 mL) and the solution was stirred while heated to 60° C. under nitrogen and then borane-methylsulfide complex (1.7 eq, 1.7 mL, 17.5 mmol) was added very slowly dropwise via a syringe. The progress of the reaction was followed by both TLC and analytical HPLC and when complete (3 hours) the mixture was allowed to cool to room temperature, diluted with water (10 mL) added extremely slowly dropwise under nitrogen. Potassium carbonate (1 g) was added and after stirring the mixture for 30 minutes ethyl acetate (50 ml) was added. The organic layer was separated, washed with water, 2 N hydrochloric acid, water and brine, dried over Na2SO4 and then concentrated to a near colorless oil. The residue was triturated with hexane and product was purified from the resulting crystals by flash column chromatography to provide (2-methoxy-4-methylsulfanyl-phenyl)-methanol (934 mg, 51%) as colorless crystals. LCMS: M−182.8.

reactant | 2-Methoxy-4-methylsulfanyl-benzoic acid | 10.09 mmol, 2 g | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | Potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (2-methoxy-4-methylsulfanyl-phenyl)-methanol | 934 mg, 51% | COC1=C(C=CC(=C1)SC)CO | C9H12O2S
